US05166214
Preparation of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N'-octyl-N-phenylurea
To a solution of N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]benzeneamine (0.41 g, 0.001 mol) in toluene (25 mL) was added n-octylisocyanate (0.23 g, 0.0015 mol). The reaction mixture was stirred at reflux for 18 hours and then the solvent was removed under vacuum. The residue (1.0 g) was chromatographed with 7:3 hexane-ethyl acetate. The resulting solid was triturated with hexane to give the title compound (0.32 g, 0.00056 mol) as a white solid, mp 74°-76°. 1H NMR (CDCl3) 11.8(s,1H), 7.75-7.1(m,15H), 4.3(t,1H,J=6.0Hz), 3.8(t,2H,J=7.0Hz), 3.0(quintet,4H,J=6.0Hz), 1.9-0.90(m,18H), 0.8(t,3H,J=7.0Hz).

reactant | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]benzeneamine | 0.001 mol, 0.41 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNC1=CC=CC=C1 | C26H27N3S
reactant | n-octylisocyanate | 0.0015 mol, 0.23 g | C(CCCCCCC)N=C=O | C9H17NO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-N'-octyl-N-phenylurea | 0.00056 mol, 0.32 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCN(C(=O)NCCCCCCCC)C1=CC=CC=C1 | C35H44N4OS
